US06576645B1
a) (4-Amino-phenyl)phenyl-methanone
4-Nitrobenzophenone (5.0 g, 0.022 mol) is dissolved in ethanol-dichloromethane (40 ml:30 ml) and hydrogenated at room temperature with 10% palladium on carbon (0.5 g) as a catalyst. The catalyst is filtered off and the filtrate is evaporated to dryness. The product is used in the next reaction step without further purification. Yield 5.2 g.

reactant | 4-Nitrobenzophenone | 0.022 mol, 5.0 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9NO3
solvent | ethanol dichloromethane | 40 ml | C(C)O.ClCCl
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | (4-Amino-phenyl)phenyl-methanone | NC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C13H11NO
